US08236950B2
2-(2,5-Dimethyl-pyrrol-1-yl)-6-ethyl-pyridine
To a solution of 2-(2,5-Dimethyl-pyrrol-1-yl)-6-methyl-pyridine (6.82 g, 36.6 mmol) in 75 mL of dry THF cooled to −40° C. under a N2 atmosphere was added dropwise n-BuLi as a 2.5M solution in hexanes (16 mL, 40 mmol). The resulting solution was stirred at low temperature for thirty minutes then treated with CH3I (2.4 mL, 38.6 mmol). On completion of the addition the mixture was allowed to warm to −30° C. and after 20 min to room temperature. The reaction was subsequently quenched by pouring into brine solution, the product isolated by extraction with EtOAc. Dried over MgSO4, filtered and concentration under vacuum. Purified by silica gel column chromatography eluting with EtOAc/hexane gave the title compound (4.42 g, 60%).

reactant | 2-(2,5-Dimethyl-pyrrol-1-yl)-6-methyl-pyridine | 36.6 mmol, 6.82 g | CC=1N(C(=CC1)C)C1=NC(=CC=C1)C | C12H14N2
reactant | n-BuLi | [Li]CCCC
reactant | CH3I | 38.6 mmol, 2.4 mL | CI | CH3I
solvent | THF | 75 mL | C1CCOC1 | C4H8O
product | 2-(2,5-Dimethyl-pyrrol-1-yl)-6-ethyl-pyridine | 4.42 g, 60% | CC=1N(C(=CC1)C)C1=NC(=CC=C1)CC | C13H16N2
